US08232312B2
1-chloro-3-methoxy-5-nitro-benzene
10 g 3-chloro-5-nitrophenol are dissolved in 250 ml of ethanol. 11.9 g potassium carbonate and 6 ml dimethylsulphate are added and the mixture is stirred for 12 hours at ambient temperature. Then 3 ml of a 33% ammonia solution are added and then the ethanol is eliminated in vacuo. The residue is taken up in water and the precipitated solid is suction filtered and dried.

reactant | 3-chloro-5-nitrophenol | 10 g | ClC=1C=C(C=C(C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | potassium carbonate | 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulphate | 6 ml | COS(=O)(=O)OC | C2H6O4S
reactant | ammonia | N | H3N
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-chloro-3-methoxy-5-nitro-benzene | ClC1=CC(=CC(=C1)[N+](=O)[O-])OC | C7H6ClNO3
